US05354651
Intermediate B: 5-(2-Hydroxybenzamido)-2-methylbenzoxazole:
5-(2-Acetoxybenzamido)-2-methylbenzoxazole (10.0 g, 0.032 mol) was combined with sodium acetate (3.5 g, 0.043 mol) in 100 mL of MeOH and the solution was heated to reflux for 2.5 hr. The heat source was removed and after standing for 2 hours the mixture was chilled in a refrigerator overnight. The solid was collected and dried affording 7.2 g (84% yield) of product; m.p. 202°-206° C.

reactant | 5-(2-Acetoxybenzamido)-2-methylbenzoxazole | 0.032 mol, 10.0 g | C(C)(=O)OC1=C(C(=O)NC=2C=CC3=C(N=C(O3)C)C2)C=CC=C1 | C17H14N2O4
reactant | sodium acetate | 0.043 mol, 3.5 g | C(C)(=O)[O-].[Na+]
solvent | MeOH | 100 mL | CO | CH4O
product | 5-(2-Hydroxybenzamido)-2-methylbenzoxazole | 7.2 g, 84% yield | OC1=C(C(=O)NC=2C=CC3=C(N=C(O3)C)C2)C=CC=C1 | C15H12N2O3
